US08022206B2
1-(2,6-Dichlorophenyl)propan-1-ol
To a solution of 2,6-dichlorobenzaldehyde (880 mg, 5.03 mmol) in THF (10 mL) was added EtMgCl/THF (2.0 M, 3 mL, 6.0 mmol) at 0° C. under nitrogen, the resulting mixture was allowed to warm to rt and stirred at rt overnight. The mixture was quenched with sat. aq. NH4Cl (5 mL) at 0° C., then diluted with Et2O (50 mL), the organic phase was washed with brine (20 mL), and dried over anhydrous sodium sulfate. The residue was purified by silica gel chromatography (Hex:EtOAc=80:20) to give the title compound as a colorless oil. 1H NMR (CDCl3): δ=1.00 (t, J=7.4 Hz, 3H), 1.95-2.11 (m, 2H), 2.82 (d, J=10.4 Hz, 1H, —OH), 5.34 (m, 1H), 7.13 (t, J=7.6 Hz, 1H), 7.29 (d, J=7.8 Hz, 2H.)

reactant | 2,6-dichlorobenzaldehyde | 5.03 mmol, 880 mg | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | EtMgCl THF | 6.0 mmol, 2.0 M, 3 mL | C(C)[Mg]Cl.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Dichlorophenyl)propan-1-ol | ClC1=C(C(=CC=C1)Cl)C(CC)O | C9H10Cl2O
